US08975254B2
a) 2-(3-(3-methoxy-4-nitrophenyl)-1H-pyrazol-1-yl)ethanamine
5-(3-methoxy-4-nitrophenyl)-1H-pyrazole (0.555 g, 2.53 mmol), tert-butyl 2-hydroxyethylcarbamate (0.449 g, 2.79 mmol) and triphenylphosphine (0.863 g, 3.29 mmol) and THF (20 ml) were mixed. DIAD (0.997 ml, 5.06 mmol) was added. The mixture was stirred for 3 h. 10% EtOH/HCl (50 ml) was added. The mixture was stirred overnight. The solvent was removed by evaporation. Water (20 ml) was added to the residue. This mixture was washed with DCM (2×20 ml). 1 M NaOH was added until pH 14 was reached followed by extraction with DCM (3×20 ml). The organic layers were pooled and evaporated to dryness. Flash chromatography (gradient of DCM:MeOH) gave 97 mg of the title compound. 1H-NMR (400 MHz; CDCl3): δ 3.19-3.26 (m, 2H), 4.04 (s, 3H), 4.20-4.28 (m, 2H), 6.63 (m, 1H), 7.38-7.43 (m, 1H), 7.52 (m. 1H), 7.59 (m, 1H), 7.91-7.97 (m, 1H).

reactant | 5-(3-methoxy-4-nitrophenyl)-1H-pyrazole | 2.53 mmol, 0.555 g | COC=1C=C(C=CC1[N+](=O)[O-])C1=CC=NN1 | C10H9N3O3
reactant | tert-butyl 2-hydroxyethylcarbamate | 2.79 mmol, 0.449 g | OCCNC(OC(C)(C)C)=O | C7H15NO3
reactant | triphenylphosphine | 3.29 mmol, 0.863 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | DIAD | 5.06 mmol, 0.997 ml | CC(C)OC(=O)/N=N/C(=O)OC(C)C | C8H14N2O4
reactant | EtOH HCl | 50 ml | CCO.Cl
solvent | THF | 20 ml | C1CCOC1 | C4H8O
product | 2-(3-(3-methoxy-4-nitrophenyl)-1H-pyrazol-1-yl)ethanamine | 97 mg | COC=1C=C(C=CC1[N+](=O)[O-])C1=NN(C=C1)CCN | C12H14N4O3
